US06350907B1
1-(3-Methoxyphenyl)-2-methyl-4-nitrobenzene(23.4 gm, 96 mmol) was dissolved in a mixture of ethanol and ethyl acetate (3:1, 470 mL) and hydrogenated over 10% palladium on charcoal (2.3 gm) at 3 bar and 20° C. for 2 h. The mixture was filtered through Arbocel filter aid, washing with ethyl acetate. The filtrate was concentrated under reduced pressure to give 4-amino-1-(3-methoxyphenyl)-2-methylbenzene (20.8 gm, 100%) as a pinkish-brown oil.

reactant | 1-(3-Methoxyphenyl)-2-methyl-4-nitrobenzene | 96 mmol, 23.4 gm | COC=1C=C(C=CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C | C14H13NO3
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | 470 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 2.3 gm | [Pd] | Pd
product | 4-amino-1-(3-methoxyphenyl)-2-methylbenzene | 20.8 gm, 100% | NC1=CC(=C(C=C1)C1=CC(=CC=C1)OC)C | C14H15NO
